US07795283B2
ii) Ethyl trans-4-(4-{[methoxy(oxo)acetyl]amino}phenoxy)cyclohexanecarboxylate
Methyl chlorooxoacetate (45 μL, 0.48 mmol) was added in one portion to a stirred solution of ethyl 4-(4-aminophenoxy)cyclohexanecarboxylate (127 mg, 0.48 mmol) and pyridine (47 μL, 0.58 mmol) in DCM (5 mL) and the reaction mixture was stirred for 30 minutes. Volatile material was removed by evaporation and the residue was taken up in EtOAc (40 mL) and an aqueous solution of hydrochloric acid (1M, 20 mL) was added. The layers were separated and the organic layer was washed with brine (10 mL), dried and concentrated in vacuo to give the title compound (152 mg, 91%) as a solid; 1H NMR (CDCl3) δ1.19 (3H, t), 1.39-1.45 (2H, m), 1.48-1.56 (2H, m), 1.97-2.03 (2H, m), 2.08-2.12 (2H, m), 2.23-2.31 (1H, m), 3.89 (3H, s), 4.07 (2H, q), 4.11-4.14 (1H, m), 6.80-6.84 (2H, d), 7.44-7.48 (2H, d), 8.66 (1H, s); MS m/e MR+ 350.

reactant | Methyl chlorooxoacetate | 0.48 mmol, 45 μL | ClC(C(=O)OC)=O | C3H3ClO3
reactant | ethyl 4-(4-aminophenoxy)cyclohexanecarboxylate | 0.48 mmol, 127 mg | NC1=CC=C(OC2CCC(CC2)C(=O)OCC)C=C1 | C15H21NO3
reactant | pyridine | 0.58 mmol, 47 μL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | Ethyl trans-4-(4-{[methoxy(oxo)acetyl]amino}phenoxy)cyclohexanecarboxylate | 152 mg, 91% | COC(C(=O)NC1=CC=C(O[C@@H]2CC[C@H](CC2)C(=O)OCC)C=C1)=O | C18H23NO6
